US07700641B2
A. Synthesis of 3-(4-chloro-5-fluoro-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1C, and making non-critical variations to replace 4-bromo-1-pentyl-1H-indole-2,3-dione with 1-pentyl-1H-indole-2,3-dione, and 1,3-benzodioxol-5-ol with 3-chloro-4-fluorophenol, the title compound was obtained (14%): MS (ES+) m/z 346 (M−17), 386 (M+23).

reactant | 4-bromo-1-pentyl-1H-indole-2,3-dione | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)=O | C13H14BrNO2
reactant | 1-pentyl-1H-indole-2,3-dione | C(CCCC)N1C(C(C2=CC=CC=C12)=O)=O | C13H15NO2
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 3-chloro-4-fluorophenol | ClC=1C=C(C=CC1F)O | C6H4ClFO
product | 3-(4-chloro-5-fluoro-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC1=CC(=C(C=C1F)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H19ClFNO3
